US05196450
1-Guanidino-4-amino-5-hexyne dihydrochloride
Triethylamine (4.5 ml, 30 mmoles) is added to a solution of 1,4-diamine-5-hexyne dihydrochloride (1.85 g, 10 mmoles) in water (50 ml) at -10° C. To this solution 3,5-dimethylpyrazole-1-carboxamidine nitrate (2.3 g, 10.5 mmoles) is slowly added (in small portions) and the resulting mixture is stirred 2 h at -10° C., and for 3 days at room temperature after all starting materials have reacted (this is controlled by electrophoresis and ninhydrin colorimetric analysis). Then, the mixture is acidified (pH 5-6) with a 1 M solution of HCl and washed with dichloromethane (2×100 ml). The aqueous layer is concentrated under reduced pressure to a volume of 5 ml. This concentrated mixture is purified by ion exchange chromatography. (DOWEX 50W-X8, 100-200 mesch, H+Form) which is eluted by using a gradient of solution of HCl (0 to 4 N). The eluted fractions are checked by electrophoresis on silica gel plates and colorimetric analysis (ninhydrin and Sakaguchi reagent). The fractions containing the guanidino material are concentrated together under reduced pressure to give the title compound (1.7 g) as a colorless oil. NMR(1H) δ ppm. 1.76 (m, 4H); 2.96 (d,1H,J=1H2); 3.16 (m, 2H) 4.2 (m, 1H). M/Z: MH+ 155; MH± NH3 : 138; MH± NH2 --CNHNH2 =98.

reactant | Triethylamine | 30 mmoles, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 10.5 mmoles, 2.3 g | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | HCl | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 1-Guanidino-4-amino-5-hexyne dihydrochloride | 1.7 g | Cl.Cl.N(C(=N)N)CCCC(C#C)N | InChI=1S/C7H14N4.2ClH/c1-2-6(8)4-3-5-11-7(9)10;;/h1,6H,3-5,8H2,(H4,9,10,11);2*1H
